US04094877
A mixture of 2-(4-dimethylamino)benzoyl)benzoic acid (26.8 g.), N,N,N',N'-tetramethyl-m-phenylenediamine (16.4 g.) and acetic anhydride (80 g.) was heated (to 95° C.) during one hour, cooled and poured into dilute hydrochloric acid. The resulting mixture was basified. Recrystallization of the resulting solid from a mixture of toluene and hexane afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(4-(dimethylamino)-phenyl)phthalide (I: X = Y4 = (CH3)2N, Y2 = Z4 = Z5 = Z6 = Z7 = H) (m.p. 190°-194° C.).

reactant | benzoic acid | 26.8 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 16.4 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | 80 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(4-(dimethylamino)-phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
